US06432947B1
To 2-[[3-[(1,3-benzodioxol-5-ylmethyl)amino](methyl)propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid, ethyl ester (2.2 g, 4.6 mmol) (a compound of formula (Yc10)) dissolved in THF (50 mL) was added LiOH (0.34 g, 8.1 mmol) and water (10 mL). After stirring for 16 hours, the solvent was removed in vacuo and 1 N HCl (8.1 mL, 8.1 mmol) was added. The solvent was removed in vacuo to give 2-[[3-[(1,3-benzodioxol-5-ylmethyl)(methyl)amino]propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid, a compound of formula (Yc11).

reactant | 2-[[3-[(1,3-benzodioxol-5-ylmethyl)amino](methyl)propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid, ethyl ester | 4.6 mmol, 2.2 g | O1COC2=C1C=CC(=C2)CNC(CCN(CC(=O)OCC)C2=NC(=NC(=C2)C)N2C=NC=C2)C | C24H30N6O4
reactant | LiOH | 8.1 mmol, 0.34 g | [Li+].[OH-]
reactant | water | 10 mL | O | H2O
reactant | HCl | 8.1 mmol, 1 N, 8.1 mL | Cl | ClH
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-[[3-[(1,3-benzodioxol-5-ylmethyl)(methyl)amino]propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid | O1COC2=C1C=CC(=C2)CN(CCCN(CC(=O)O)C2=NC(=NC(=C2)C)N2C=NC=C2)C | C22H26N6O4
